US05523475
Methyl 2-fluoro-5-methoxy-4-propylbenzoate (1.27 g, 5.63 mmol) was dissolved in CH2Cl2 (20 mL) and cooled to -70° C. Boron tribromide (1.64 mL, 16.9 mmol) was added and the temperature was slowly raised to 0° C. during 4.5 h. Methylene chloride (20 mL) and 2M NaOH (25 mL) were added and the mixture was stirred overnight at room temperature. Water (20 mL) was added, the phases separated and the aqueous phase was extracted with CH2Cl2 (20 mL) and acidified to pH 1 by concentrated HCl thus precipitating the acid. Ethyl acetate (50 mL) was added to the mixture and the phases separated. The aqueous phase was extracted by additional EtOAc (50 mL) and the combined organic phases were washed with brine (20 mL), dried (MgSO4) and evaporated yielding 2-fluoro-5-hydroxy-4-propylbenzoic acid (1.09 g) Mp: 134.5°-135.5° C. 1H NMR (DMSO-d6): δ12.88 (br, 1H), 9.57 (br, 1H), 7.23 (d, J=6.5 Hz, 1H), 6.96 (d, J=11.6 Hz), 2.48 (t, J=7.5 Hz, 2H), 1.53 (m, J=7.5 Hz, 2H), 0.87 (t, J=7.4HZ, 3H). 13C NMR (DMSO-d6): δ164.96 (d, J=3 Hz), 154.38 (d, J=248 Hz), 150.84 (d, J=2 Hz), 135.82 (d, J=7 Hz), 117.44 (d, J=24 Hz), 116.28 (d, J=11 Hz), 116.22, 31.38, 21.79, 13.65. MS (EI, 70 eV): m/z (rel. int) 198 (M+, 38).

reactant | Methyl 2-fluoro-5-methoxy-4-propylbenzoate | 5.63 mmol, 1.27 g | FC1=C(C(=O)OC)C=C(C(=C1)CCC)OC | C12H15FO3
reactant | Boron tribromide | 16.9 mmol, 1.64 mL | B(Br)(Br)Br | BBr3
reactant | NaOH | 2M, 25 mL | [OH-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-fluoro-5-hydroxy-4-propylbenzoic acid | 1.09 g | FC1=C(C(=O)O)C=C(C(=C1)CCC)O | C10H11FO3
